US04572912
0.16 g of ethyl 3-[4-(6-acetoxy-2,5,7,8-tetramethylchroman-2-ylmethoxy)phenyl]-2-chloropropionate was dissolved in a mixture of 1.5 ml of 99.5% ethanol and 0.2 ml of tetrahydrofuran. 265 mg of a 9.55% w/w aqueous solution of sodium hydroxide were added dropwise, under a nitrogen stream at 0°-4° C., to the resulting mixture. The mixture was then reacted for a further 20 hours at 0°-5° C., after which it was neutralized, whilst ice-cooling, by adding 0.68 g of a 10% w/w aqueous solution of hydrochloric acid. The solvent was then distilled off under reduced pressure. The separated light reddish oil was further extracted with chloroform, and the chloroform extract was washed with water and dried over anhydrous sodium sulfate. The crude product obtained by distilling off the chloroform under reduced pressure was subjected to column chromatography through silica gel and the desired 3-[4-(6-acetoxy-2,5,7,8-tetramethylchroman-2-ylmethoxy)phenyl]-2-chloropropionic acid was obtained from the fractions eluted with a 20:1 by volume mixture of benzene and 99.5% ethanol. Rf value on thin layer chromatography: 0.6 (tailing) [silica gel; developing solvent; benzene:99.5% ethanol=4:1 by volume].

reactant | ethyl 3-[4-(6-acetoxy-2,5,7,8-tetramethylchroman-2-ylmethoxy)phenyl]-2-chloropropionate | 0.16 g | C(C)(=O)OC=1C(=C2CCC(OC2=C(C1C)C)(C)COC1=CC=C(C=C1)CC(C(=O)OCC)Cl)C | C27H33ClO6
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 1.5 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 0.2 ml | O1CCCC1 | C4H8O
product | 3-[4-(6-acetoxy-2,5,7,8-tetramethylchroman-2-ylmethoxy)phenyl]-2-chloropropionic acid | C(C)(=O)OC=1C(=C2CCC(OC2=C(C1C)C)(C)COC1=CC=C(C=C1)CC(C(=O)O)Cl)C | C25H29ClO6
